US08809372B2
To a solution of diisopropylamine (0.2 mL, 1.538 mmol) in dry THF (5 mL), was added 1.6M n-BuLi in hexanes (0.96 mL, 1.538 mmol) slowly at −78° C. The reaction mixture was stirred for 30 min, 2-(4-chlorophenyl)thiazole (0.2 g, 1.025 mmol) in THF (10.0 mL) added, the mixture stirred for 30 min, a solution of 1-(pyridin-4-yl)ethanone (0.17 mL, 1.538 mmol) in THF (5.0 mL) added, and the mixture was stirred for 2 hours at −78° C. The reaction mixture was quenched with saturated NH4Cl (50 mL) solution and extracted with EtOAc (2×100 mL). The organic layer was washed with water (2×50 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to obtain crude product. The crude product was purified by column chromatography (1% methanol in dichloromethane) to obtain 1-(2-(4-chlorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol as off-white solid (0.1 g, 31% yield) in 99.9% HPLC purity. 1H NMR (400 MHz, DMSO-d6): δ 8.51 (d, 2H), 7.87 (d, 2H), 7.82 (s, 1H), 7.51-7.47 (m, 4H), 6.66 (s, 1H), 1.92 (s, 3H); LC-MS m/z calculated for [M+H]+ 317.04, found 317.4.

reactant | diisopropylamine | 1.538 mmol, 0.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | 2-(4-chlorophenyl)thiazole | 1.025 mmol, 0.2 g | ClC1=CC=C(C=C1)C=1SC=CN1 | C9H6ClNS
reactant | 1-(pyridin-4-yl)ethanone | 1.538 mmol, 0.17 mL | N1=CC=C(C=C1)C(C)=O | C7H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1-(2-(4-chlorophenyl)thiazol-5-yl)-1-(pyridin-4-yl)ethanol | 0.1 g, 31% yield | ClC1=CC=C(C=C1)C=1SC(=CN1)C(C)(O)C1=CC=NC=C1 | C16H13ClN2OS
